US07541372B2
5′-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol
As described for example 136b, 2-chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine (200 mg, 0.59 mmol) was converted using 4-hydroxypiperidine instead of morpholine to the title compound (17 mg, 7%) which was obtained as a light yellow solid. MS: m/e=404.5 [M+H]+.

reactant | 2-chloro-5-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-pyridine | 0.59 mmol, 200 mg | ClC1=NC=C(C=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1 | C17H11ClN4O2
reactant | 4-hydroxypiperidine | OC1CCNCC1 | C5H11NO
product | 5′-[5-(5-Methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-ol | 17 mg, 7% | CC1=C(C(=NO1)C1=CC=CC=C1)C1=NN=C(O1)C=1C=CC(=NC1)N1CCC(CC1)O | C22H21N5O3
